US06831106B1
c) 4′-(2-Ethyl-[1,3]dioxolan-2-yl)-2′-methylbiphenyl-3-carbaldehyde
In a manner similar to that of Example 1(h), by reaction of 6.6 g (44 mmol) of 3-formylbenzeneboronic acid and 10 g (37 mmol) of 2-(4-bromo-3-methylphenyl)-2-ethyl-[1,3]dioxolane with 45 mL of 2.0M potassium carbonate and 2.14 g of tetrakis(triphenylphosphine)palladium, the desired product is obtained in the form of a thick oil (m=9.1 g; Y=84%).

reactant | 3-formylbenzeneboronic acid | 44 mmol, 6.6 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | 2-(4-bromo-3-methylphenyl)-2-ethyl-[1,3]dioxolane | 37 mmol, 10 g | BrC1=C(C=C(C=C1)C1(OCCO1)CC)C | C12H15BrO2
reactant | potassium carbonate | 2.0M, 45 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 2.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-(2-Ethyl-[1,3]dioxolan-2-yl)-2′-methylbiphenyl-3-carbaldehyde | C(C)C1(OCCO1)C1=CC(=C(C=C1)C1=CC(=CC=C1)C=O)C | C19H20O3
